US06372759B1
A) 6-Nitro-2-(4-t-butylphenyl)-4H-3,1-benzoxazin-4-one
To a mixture of 5-nitroanthranilic acid (24.59 g, 135 mmol) and pyridine (14.19 mL, 175.5 mmol, 1.3 eq) in DMF (140 mL) at 0° C., under N2, was added 4-t-butylbenzoyl chloride (31.64 mL, 162 mmol, 1.2 eq) over 15 min. After warming to room temperature, the reaction mixture was heated to 80° C. for 4 h. The reaction mixture was cooled and poured into 700 mL ice-water and stirred to break up the solid material. Filtration, with water followed with 1:2 Et2O:hexane washes, and vacuum drying (150° C./13 Pa/2 h) afforded a light brown solid as a mixture of acid and benzoxazinone (37.1 g, 80%). The solid was suspended in DMF (0.4 mL, 5.4 mmol, 0.05 eq) and methylene chloride (200 mL), under N2, and oxalyl chloride (10.4 mL, 119.2 mmol, 1.1 eq) was added dropwise. Vigorous gas evolution was observed. The solid went into solution over 2 h. The mixture was concentrated to a volume of about 125 mL (cold) in vacuo and filtered to give a light tan solid (about 10 g). A second crop was about 85% pure (about 10 g). The mother liquor was evaporated to dryness and vacuum dried (80° C./13 Pa/3 h) to afford a light brown solid product, 95% pure (about 12 g).

reactant | 5-nitroanthranilic acid | 135 mmol, 24.59 g | [N+](=O)([O-])C1=CC=C(C(C(=O)O)=C1)N | C7H6N2O4
reactant | pyridine | 175.5 mmol, 14.19 mL, 1.3 eq | N1=CC=CC=C1 | C5H5N
reactant | 4-t-butylbenzoyl chloride | 162 mmol, 31.64 mL, 1.2 eq | C(C)(C)(C)C1=CC=C(C(=O)Cl)C=C1 | C11H13ClO
reactant | benzoxazinone | 37.1 g | O1NC(CC2=C1C=CC=C2)=O | C8H7NO2
reactant | oxalyl chloride | 119.2 mmol, 10.4 mL, 1.1 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | DMF | 140 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 5.4 mmol, 0.4 mL, 0.05 eq | CN(C)C=O | C3H7NO
product | 6-Nitro-2-(4-t-butylphenyl)-4H-3,1-benzoxazin-4-one | about 10 g, yield 93.6% | [N+](=O)([O-])C=1C=CC2=C(C(OC(=N2)C2=CC=C(C=C2)C(C)(C)C)=O)C1 | C18H16N2O4
